US08258144B2
A mixture of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (200 mg, 1.06 mmol) and SelectFluor (560 mg, 1.58 mmol) in CH3CN (5 mL) and HOAc (1 mL) was stirred at 70° C. for 18 h. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give 2,4-dichloro-5-fluoro-7H-pyrrolo[2,3-d]pyrimidine (50 mg).

reactant | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 1.06 mmol, 200 mg | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
reactant | SelectFluor | 1.58 mmol, 560 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
product | 2,4-dichloro-5-fluoro-7H-pyrrolo[2,3-d]pyrimidine | 50 mg | ClC=1N=C(C2=C(N1)NC=C2F)Cl | C6H2Cl2FN3
